US03931269
Into a Paar hydrogenation bottle is added 0.144 mole of ethyl 6-methoxy-2-naphthylglyoxylate, 2 ml. of 0.1 M - ferrous sulfate solution; 220 ml. of isopropanol, and 1.0 g. of 84.1% platinum oxide. The mixture is shaken for 2 hours at room temperature with hydrogen gas until 0.144 mole of hydrogen is absorbed. The catalyst is then filtered off and the solution is evaporated in vacuo and the residue fractionally distilled to obtain ethyl 6-methoxy-2-naphthylglycolate.

reactant | ethyl 6-methoxy-2-naphthylglyoxylate | 0.144 mole | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)OCC)=O | C15H14O4
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.144 mole | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | isopropanol | C(C)(C)O | C3H8O
product | ethyl 6-methoxy-2-naphthylglycolate | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)OCC)O | C15H16O4
